Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't know how to stop drinking"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
From Inpatient Psychiatry Admission Note ___:
.
Ms. ___ is a ___ with significant alcohol and marijuana use 
history as well as hypothyroidism and IBS who presents 
requesting assistance with escalating alcohol consumption and 
depression with new SI.
. 
On interview, the patient cites a long-standing history of 
alcohol and substance use.  She states that she has been 
drinking daily for the past ___ years: ___ bottles of wine daily 
over the past several months, and ___ bottles most recently- 
beginning in the morning- in order to "stop the shakes".  She 
consumed 2 bottles of wine prior to presenting to the ED today 
(last drink ___ @1300) with BAL 229 on presentation. 
.
She states that she used to enjoy drinking, and only in the last 
___ years has acknowledged that she "has a problem".  She has on 
and off for the last ___ years attended monthly individual therapy 
sessions surrounding substance use but declined to participate 
in groups or more intensive treatment believing she was not yet 
ready to commit to sobriety.  She has twice attempted sobriety 
in
the last 6 months, succeeding each time in a week of abstinence, 
although she admits that she smoked marijuana daily during those 
periods, and as such believes it "didn't count because [she] 
substituted one [substance] for another".  She could not 
verbalize why she had chosen to abstain from alcohol, but admits 
that she no longer finds drinking pleasurable: she continues to
drink in order to "numb the pain".  
.
She has been unhappy since moving to ___ for work ___ years ago 
and believes that this dissatisfaction has contributed to her 
depressed mood.  She notes that her job as a ___ 
___, which involves "wining and dining" has likewise enabled 
her drinking.  Despite her feelings regarding her work, she says 
"it's the only thing [she does] well".  When asked about recent
stressors, apart from work, she shares that a maternal uncle 
committed suicide 6 months ago.  She denies that he had a 
history of substance use, but says that he often complained of 
"monkey mind", or ruminative thoughts.  She too fears that she 
has "monkey mind", with difficulty falling and staying asleep, 
but
denies rumination; she states that she has difficulty "turning 
[her] brain off", and cites a history of chronic insomnia 
resulting in daytime fatigue.  She uses alcohol to facilitate 
sleep without effect.  Otherwise, she complains of failed recent 
romantic relationships and the anxiety she feels in not being
able to let go of her feelings.
.
Asked what brought her to the ED, she states that she came at 
the urging of a friend.  She admits to passive SI with a desire 
to "not be alive anymore" on ___ occasions in the last 6 months, 
most recently 3 days ago.  She denies plans to end her life and 
is adamant that she "would never do it", citing her loved ones 
as a protective factor.  She states that her parents are 
supportive
of her recovery- especially her father, who previously struggled 
with alcoholism but is now ___ years in remission- but live in 
___, and she otherwise denies sober supports in the ___ 
area.  She was successfully able to reach out to friends and 
family today but denies that she had previously shared with 
anyone the extent of her difficulties.
.
Psychiatric ROS:
Depression - endorses symptoms including anhedonia, 
hopelessness, guilt, fatigue, difficulty concentrating, changes 
in appetite, and sleep disturbances.
Psychosis - denies symptoms including delusions (persecutory, 
grandiose, thought broadcasting/insertion/withdrawal) or 
hallucinations (auditory, visual, olfactory, or tactile). 
Mania- denies symptoms including elevated mood or irritability, 
marked increases in goal-directed behavior, racing thoughts, a 
decreased need for sleep, or social/economic indiscretion.
Anxiety - denies symptoms including panic attacks or 
agoraphobia.
.  
ED Course:
Patient was in good behavioral control throughout ED stay. No 
physical or chemical restraints required.  
.
ROS: Complains of intermittent constipation and diarrhea
consistent with IBS.  Additionally complains of vaginal itching,
odor, and discharge.  Medical ROS otherwise negative.
.
.
FROM OUR INITIAL ENCOUNTER WITH THE PATIENT ON ___:
.
This morning Ms. ___ notes that she is here due to alcohol 
and partying leading to depression ("and not the other way 
around") and that she attributes the partying her genetics. 
Father was in AA. Pt started drinking at age ___ with alcohol use 
throughout college. However, over the last ___ years she has
realized that this is "not normal for me to drink so much." She 
sees a counselor monthly for sessions focused on alcohol use. 
She has tried AA and Smart Recovery. No hx of detox or rehabs. 
Hx of shakes with alcohol use but no hx of seizures or 
complicated withdrawals. Has trialed both naltrexone and 
antabuse but notes that she continued to drink even with these 
medications. She
notes that she is help-seeking and that she had originally 
pursued calling outpatient facilities but that they described 
long wait times, thus she presented to the ED. 
.
Overall, she has insight that she utilizes alcohol as a means of 
socializing in bar settings. Lives alone in ___ in a 
2-bedroom apartment. Formerly had cats but they have been given 
away to friends as the patient was not able to take care of them 
with her travel schedule; pt notes this as a loss. No hx of
marriages, no children although she does endorse having romantic 
relationships that have been loving. She is well-educated with a 
doctorate in ___ at age ___, hx of being a ___, and 
now working as a ___ in ___. However, she notes 
that the last ___ years of that job have been stressful and
high-pressure and also a lifestyle of wine, dining, and parties 
in which she finds it difficult to set her alcohol limits. In 
the last 6 months she has traveled widely internationally 
___, Middle East, ___) for pleasure as well as trips for 
work; she notes that this is enjoyable but that these trips also 
include elements of partying and drinking. Other than a recent 
use of
Adderall once, denies any hx of illicits or IVDU.
.

She has insight that "I must not care about myself or I wouldn't 
do this to myself." However, she denies any active SI or any 
current SI. She does note occasional passive SI when 
intoxicated, but firmly states that she would not act on these 
feelings due to the protective factor of the people she loves. 
No prior hx of SA. Remote ?cutting as child but no SIB as adult. 
No hx of eating
disorders. Denies any manic sxs and states that she is able to 
afford her traveling and that this is not impulsive spending. 
Denies any hx of trauma. She does not currently see an 
outpatient therapist or provider to discuss life issues beyond 
the alcohol.
.
She has no hx of trialing psychiatric medications other than 
Buproprion for the indication of smoking cessation. Given her 
educational background, she notes some hesitancy with 
psychiatric medications as she is well aware of side effects and 
efficacies.  
.
.
 
Past Medical History:
PAST MEDICAL HISTORY:
Per OMR:
- Hashimoto's disease
- IBS
.
Per pt:
Reviews her past medical history as Hashimoto's, insomnia, adult
acne, hx of IBS for ___ years which was ultimately determined to
be a parasite and was treated.
.
.
PAST PSYCHIATRIC HISTORY:
Diagnoses: Oppositional defiant disorder diagnosed at age ___
Hospitalizations: Denies.
Current treaters and treatment: Denies. Had been seeing a
therapist (___) monthly for issues related to alcohol use but
has not seen him since ___.  Prior to that, had seen a
psychologist in ___ x ___ years, monthly around substance
use treatment.
Medication and ECT trials: Denies.
Self-injury: Denies h/o suicide attempts; admits to SIB in the
form of superficial scratching and cutting from ages ___- (no
scars evident)
Harm to others: Denies.
Access to weapons: Denies.
 
Social History:
SOCIAL HISTORY:
Born and raised in ___, where her parents continue to 
live.  Her younger brother lives in ___.  Graduated with a 
PharmD from the ___. Previously taught in 
___, moved to ___ ___ years ago to work as a ___ 
___ for a ___.  Names ___
handful of social supports in ___, but denies sober supports. 
 Denies a history of abuse.
.
.
SUBSTANCE ABUSE HISTORY:
Has used multiple substances since age ___.  She has been 
drinking a ___ bottles of wine daily for the past 6 months and 
___ bottles daily for the past several days.  She denies using 
other recent substance use but cites a history of daily 
marijuana use.  She denies history of withdrawal seizures, 
alcoholic hallucinosis, or black-outs.
She denies ever being in detox: ___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Father in recovery from alcohol use x ___ years; 
paternal grandmother and paternal grandfather died of alcohol 
use. 
Maternal uncle without substance use history, committed suicide 
approximately 6 months ago (unclear whether he carried a formal 
psychiatric diagnosis).
 
Physical Exam:
PHYSICAL EXAM AT ADMISSION ON ___:
.
VS: T 98.8 PO; BP 118 / 78; HR 80; RR 16; SpO2 94% 

General: Young well-nourished, well-developed female in NAD.
Well-nourished, well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, non-distended. 
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. 
Strength: full power ___ throughout. 
Coordination: Normal on finger to nose test. 
DTRs: 2+ and symmetrical throughout. 
Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: Awake and alert.
Attention: Intact to interview.
Orientation: Oriented to person, time, place, situation.
Memory: Intact to recent and past history.
Fund of knowledge: Consistent with education.
Calculations: Correctly states 7 quarters in $1.75.
Abstraction: Correctly interprets proverbs.
Speech: Normal rate, volume, and tone.
Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation.

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed.
Behavior: Calm, cooperative, appropriate eye contact, no
psychomotor agitation or retardation, no tremor, no adventitious
movements.
Mood and Affect: "Depressed" / Dysphoric, full range, tearful,
appropriate to situation, congruent with mood.  Reactive.
Thought Process: Linear, coherent, goal-oriented. No LOA.
Thought Content: Passive SI as per HPI.  Denies HI/AH/VH, no
evidence of delusions or paranoia.
Judgment and Insight: Fair/fair
.
.
PHYSICAL EXAM AT DISCHARGE:
.

Mental Status:
Appearance: No apparent distress, appears stated age, well 
groomed, appropriately dressed.
Behavior: Calm, cooperative, appropriate eye contact, no 
psychomotor agitation or retardation, no tremor, no adventitious 
movements.
Mood and Affect: "okay" / euthymic.  Reactive, full.
Thought Process: Linear, coherent, goal-oriented. No LOA.
Thought Content: Passive SI as per HPI.  Denies HI/AH/VH, no 
evidence of delusions or paranoia.
Judgment and Insight: good / good

Cognition: 
Wakefulness/alertness: Awake and alert.
Attention: Intact to interview.
Orientation: Oriented to person, time, place, situation.
Memory: Intact to recent and past history.
Fund of knowledge: Consistent with education.
Calculations: Correctly states 7 quarters in $1.75.
Abstraction: Correctly interprets proverbs.
Speech: Normal rate, volume, and tone.
Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation.

 
Pertinent Results:
___: Na: 143
___: K: 4.4
___: Cl: 104
___: CO2: 23
___: BUN: 7
___: Creat: 0.7
___: Glucose: 74 (If fasting, 70-100 normal, >125
provisional diabetes)
.
___: WBC: 7.3
___: HGB: 13.8
___: HCT: 41.2
___: Plt Count: 221
.
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): NEG
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG
.
___: TSH: 1.1
___: Free T4 1.2
.
Urine tox: Negative for benzos, barbituates, opiates, cocaine,
amphetamine, and methadone.
.
Serum tox: Ethanol ___. 
Negative for aspirin, benzos, barbiturates, TCAs and 
acetaminophen.
.
EKG: QTc 394, EKG wnl.

 
Brief Hospital Course:
Ms. ___ is a ___ with significant alcohol and marijuana use 
history as well as hypothyroidism and IBS who presents 
requesting assistance with escalating alcohol consumption and 
depression.
.
Upon our initial encounter with the patient, Ms. ___ states 
that her partying and drinking leads to her feelings of 
depression but "not the other way around." She has good insight 
that her drinking is related to her genetics (father in ___), 
that
her drinking is a means to socialize with others (in bar 
settings), and she superficially has an enjoyable life filled 
with fun parties and international travel but that she may not 
be fully happy with herself inside. However, she firmly denies
current SI at this time other than occasional passive SI when 
intoxicated. She states a strong protective factor of the 
"people I love" as preventing her from following through on 
these thoughts. She denies any prior SA, denies SIB other than 
?cutting as child, denies eating disorders, denies use of 
illicits, or denies denies any hx of psychiatric 
hospitalizations or detox facilities or rehabs. 
.
Risk factors for self-harm include the use of alcohol and 
passive SI in the context of alcohol. In addition, she currently 
lives alone and has chronic medical condition Hashimoto's. 
However, protective factors include help-seeking behavior, 
current
outpatient therapist (largely focused on addiction topics), no 
prior SAs, hx of social supports including romantic partners, 
and able to function well in the community with professional 
employment that has been successful for her.
.
Her differential at this time includes alcohol use disorder. She 
primarily endorses  that her depression and occasional passive 
SI is in the context of intoxication. However a 
substance-induced mood disorder or a mood disorder unspecified 
could also be considered in the differential.
.
At time of discharge, she firmly denied SI. She expressed 
motivation to attend her aftercare plan. She identified that her 
boyfriend could watch her at home. Both pt and support person 
agreed with the plan for discharge and felt safe with the 
patient being discharged to home.
.
DSM5 DIAGNOSIS:
Alcohol use disorder
r/o substance-induced mood disorder, r/o Mood disorder 
unspecified
.
PLAN:
1) Legal/Safety:
- The patient arrived to the inpatient unit on a ___. 
Upon arrival to the unit, signed a CV, which was accepted. 
- Patient will be placed on 15 min checks and will be evaluated
for fresh air access when safe to do so
- Sharps status: monitored access (green)
- She had no behavioral or safety concerns during her admission
.
2) Psychiatric:
# r/o substance-induced mood disorder, r/o mood disorder
.
- Provide individual, group, and milieu therapy
- Pt denies interest in psychiatric medications at this time
- Aftercare planning will need arrangement of outpatient 
providers
.
# Alcohol Use Disorder
.
- Provided psychoeducation around the use of alcohol and its 
effects
- Pt already aware of programs such as AA and Smart Recovery
- Provide individual, group, and milieu therapy
.
3) Acute Medical Conditions:
#Monitor for alcohol withdrawal
- Monitored for signs and symptoms of EtOH withdrawal with CIWA 
per ___ protocol, but ultimately did not score on CIWA. Pt 
felt medically well.
- Pt denies any history of seizures or complicated withdrawal
- Pt denies prior success with naltrexone or antabuse
.
# Nutrition in the context of alcohol use
  - Continued:
      Thiamine 100 mg PO daily
      MVI 1 tab PO daily
      Folate 1 mg PO daily
.
4) Chronic Medical Conditions:
.
#Insomnia
Offered Ramelteon qHS
.
#Vaginal discharge: 
h/o recurrent BV and yeast infections. 
Prescribed metronidazole 0.75% gel qHS for 5 days and 
fluconazole 150 mg PO once.
.
#Hypothyroidism / Hashimoto's: 
Continued levothyroxine 88 mcg daily.
TSH and Free T4 wnl at time of admission.
.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. melatonin Dose is Unknown  oral qHS PRN 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Metronidazole Gel 0.75%-Vaginal 1 Appl VG QHS Duration: 7 
Doses 
RX *metronidazole 0.75 % Place 1 applicator full of medication 
intravaginally nightly Disp #*6 Each Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  Thiamine 100 mg PO DAILY  
5.  melatonin 3 mg oral QHS PRN insomnia  
6.  Levothyroxine Sodium 88 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol use disorder
r/o substance-induced mood disorder, r/o Mood disorder 
unspecified

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___